US07951550B2
Synthesis of 2-cyano-6-(4-chloro-phenylthiomethoxy)-benzothiazole.
The mixture of 6-hydroxy-2-cyanobenzothiazole (0.45 g, 2.59 mmol), 1-chloro-4-chloromethylthiobenzene (0.50 g, 2.59 mmol), potassium carbonate (0.36 g, 2.61 mmol) and sodium iodide (0.01 g) in acetone (30 ml) was heated to reflux 30 minutes. Upon cooling to room temperature, the insoluble solid was removed by filtration. The solvent of filtrate was removed under reduced pressure, the residue was dissolved minimum amount of acetone with heating. The solution was cooled at 0° C. and yellow crystals were formed immediately. The solid was collected by filtration to give a yield of 37%.

reactant | 6-hydroxy-2-cyanobenzothiazole | 2.59 mmol, 0.45 g | OC1=CC2=C(N=C(S2)C#N)C=C1 | C8H4N2OS
reactant | 1-chloro-4-chloromethylthiobenzene | 2.59 mmol, 0.50 g | ClC1=CC=C(C=C1)SCCl | C7H6Cl2S
reactant | potassium carbonate | 2.61 mmol, 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.01 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-cyano-6-(4-chloro-phenylthiomethoxy)-benzothiazole | yield of 37% | C(#N)C=1SC2=C(N1)C=CC(=C2)OCSC2=CC=C(C=C2)Cl | C15H9ClN2OS2
